US05582764
22.1 g (0.1 mol) of 1-bromo-4-n-propyl-4-silacyclohexane was dripped into a mixture of 2.5 g (0.11 mol) of magnesium and 300 ml of THF to obtain a Grignard's reagent. This solution was then dripped into a 500 ml THF solution of 0.5 g of triethyl phosphate, 0.1 g of copper (I) iodide and 47.6 g (0.1 mol) of 4-(trans-4-(2-iodoethyl)cyclohexyl)-3'-fluoro-4'-trifluoromethylbiphenyl. After a conventional after treatment, 4-(trans-4-(2-(trans-4-n-propyl-4-silacyclohexyl)ethyl)cyclohexyl)-3'-fluoro-4'-trifluoromethylbiphenyl was obtained. The silacyclohexane rings of the product were a mixture of trans isomers and cis isomers. They were separated by means of chromatography to obtain 35.5 g (yield 72.3%) of the trans isomer.

reactant | 1-bromo-4-n-propyl-4-silacyclohexane | 0.1 mol, 22.1 g | BrC1CC[SiH](CC1)CCC | C8H17BrSi
reactant | magnesium | 0.11 mol, 2.5 g | [Mg] | Mg
reactant | triethyl phosphate | 0.5 g | P(=O)(OCC)(OCC)OCC | C6H15O4P
reactant | 4-(trans-4-(2-iodoethyl)cyclohexyl)-3'-fluoro-4'-trifluoromethylbiphenyl | 0.1 mol, 47.6 g | ICC[C@@H]1CC[C@H](CC1)C1=CC=C(C=C1)C1=CC(=C(C=C1)C(F)(F)F)F | C21H21F4I
catalyst | copper (I) iodide | 0.1 g | [Cu]I
solvent | THF | 500 ml | C1CCOC1 | C4H8O
solvent | THF | 300 ml | C1CCOC1 | C4H8O
product | 4-(trans-4-(2-(trans-4-n-propyl-4-silacyclohexyl)ethyl)cyclohexyl)-3'-fluoro-4'-trifluoromethylbiphenyl | yield 72.3% | C(CC)[Si@@H]1CC[C@H](CC1)CC[C@@H]1CC[C@H](CC1)C1=CC=C(C=C1)C1=CC(=C(C=C1)C(F)(F)F)F | C29H38F4Si
